US07494996B2
To a solution of 1-(2,2,2-trifluoroethyl)-3-(3,5-dichlorophenyl)-4,5-dihydro-1,2,4-triazin-6-one (110 mg, 0.34 mmol) dissolved in 5 mL tetrahydrofuran was added triethylamine (0.06 mL, 0.40 mmol) and methoxy-carbonylsulfenyl chloride (0.04 mL, 0.40 mmol). After 30 min, the reaction was quenched with water and diluted with ethyl acetate. The aqueous layer was extracted with ethyl acetate (2×5 mL), and the combined organic extracts were dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude material was subjected to flash column chromatography (10% ethyl acetate/hexanes) to afford 1-(2,2,2-trifluoroethyl)-3-(3,5-dichlorophenyl)-4-(methoxycarbonylthio)-4,5-dihydro-1,2,4-triazin-6-one (60 mg, 43%) in 80% purity by LC.

reactant | 1-(2,2,2-trifluoroethyl)-3-(3,5-dichlorophenyl)-4,5-dihydro-1,2,4-triazin-6-one | 0.34 mmol, 110 mg | FC(CN1N=C(NCC1=O)C1=CC(=CC(=C1)Cl)Cl)(F)F | C11H8Cl2F3N3O
reactant | triethylamine | 0.40 mmol, 0.06 mL | C(C)N(CC)CC | C6H15N
reactant | methoxy-carbonylsulfenyl chloride | 0.40 mmol, 0.04 mL | COC(=O)SCl | C2H3ClO2S
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 1-(2,2,2-trifluoroethyl)-3-(3,5-dichlorophenyl)-4-(methoxycarbonylthio)-4,5-dihydro-1,2,4-triazin-6-one | 60 mg, 43% | FC(CN1N=C(N(CC1=O)SC(=O)OC)C1=CC(=CC(=C1)Cl)Cl)(F)F | C13H10Cl2F3N3O3S
